US07855201B2
Step 2: 1,4-Dibromo-2-(4-bromobutoxy)benzene
To a solution of 12.63 g (39 mmol) of 4-(2,5-dibromophenoxy)butan-1-ol in 83 mL of toluene was added 1.65 mL (17.6 mmol, 0.45 equiv) of phosphorous tribromide. The solution was stirred under nitrogen at 90° C. for 2.5 hours. Additional phosphorous tribromide (0.37 mL, 3.9 mmol, 0.10 equiv) and 0.21 ml (11.5 mmol, 0.3 equiv) of water were added, and the mixture was stirred under nitrogen at 90° C. for 8 hours. The mixture was allowed to cool to ambient temperature, 69 mL of 1N NaOH was added dropwise over 30 minutes, and the layers were separated. The aqueous layer was extracted with 25 mL of toluene. The combined organic layer was washed with 25 mL each of water and brine, dried over sodium sulfate, filtered, and concentrated under reduced pressure to give the product as a cloudy yellow oil suitable for the next step. MS (m+1)=386.1, 385.1, 381.0; 1H NMR (400 MHz, CDCl3) 7.38 (d, 1H, J 8 Hz), 6.98 (m, 2H), 4.05 (t, 2H, J 6 Hz), 3.53 (t, 2H, J 6 Hz), 2.12 (m, 2H), 2.03 (m, 2H).

reactant | 4-(2,5-dibromophenoxy)butan-1-ol | 39 mmol, 12.63 g | BrC1=C(OCCCCO)C=C(C=C1)Br | C10H12Br2O2
reactant | phosphorous tribromide | 17.6 mmol, 1.65 mL, 0.45 equiv | P(Br)(Br)Br | Br3P
reactant | phosphorous tribromide | 3.9 mmol, 0.37 mL, 0.10 equiv | P(Br)(Br)Br | Br3P
reactant | water | 11.5 mmol, 0.21 ml, 0.3 equiv | O | H2O
reactant | NaOH | 1N, 69 mL | [OH-].[Na+]
solvent | toluene | 83 mL | C1(=CC=CC=C1)C | C7H8
product | 1,4-Dibromo-2-(4-bromobutoxy)benzene | BrC1=C(C=C(C=C1)Br)OCCCCBr | C10H11Br3O
